2172-03-03 02:53:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2172-03-03 10:10:00 Physician Attending Progress Note
Chief Complaint:  Syncope, S/P fall
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: left pleural effusion, rapid Aflutter, CNS lesion, Seizure
   disorder
   24 Hour Events:
   could not tolerate Contrast MRI, HR increased
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2172-3-3**] 08:50 AM
   Other medications:
   divalproex
   dilt 60 po qid
   flagyl PO 500 tid
   levaquin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-3**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 114 (82 - 121) bpm
   BP: 116/62(71) { mmHg
   RR: 22 (18 - 25) insp/min
   SpO2: 96%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
             4,358 mL
   PO:
             TF:
   IVF:
   2,058 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    960 mL
   Urine:
   960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  3,398 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General: agitated, responds to simple commands
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   CHEST: decreased breath sounds bilaterally
   ABD: soft, nt, nd
   EXT wwp, no c/c/e
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present)
   Skin:  Not assessed
   Neurologic: Responds to: simple commands, Movement: nonpurposeful,
   Tone: normal
   Labs / Radiology
   14.9 g/dL
   137 K/uL
   92 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.5 mEq/L
   17 mg/dL
   105 mEq/L
   137 mEq/L
   45.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2172-3-3**]  02:35 AM
   WBC
   9.4
   Hct
   45.1
   Plt
   137
   Cr
   0.5
   TropT
   <0.01
   Glucose
   92
   Other labs: CK / CKMB / Troponin-T:31//<0.01, Mg++:1.5 mg/dL
   Assessment and Plan
   53 yo M schizoaffective disorder, asthma/copd presents with altered
   mental status and fall
   1. altered mental status:
    - MRI with contrast vs CT with contrast
    - will premedicate with haldol, may need intubation for procedure
   2. Fall: arhythmia vs szr vs hotn
    - EEG
    - Neuro consult
    - telemetry
    - f/u head imaging
   3. LLeffusion and post-obstructive pneumonia with left hilar mass
    - cont levo and flagyl
    - diagnostic tap / bronch when able to provide consent. Suspect this
   is primary bronchogenic malignancy based on CT appearance in this
   smoker
   4. Aflutter:
    - cont dilt gtt + IV lopressor
    - cardioversion complicated by possible brain mass
    - will touch base with cardiology
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2172-3-3**] 12:35 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code, will need to speak with Legal team regarding
   extent of care permissable in the absence of informed consent
   Disposition : ICU
   Total time spent: 60 minutes
   Patient is critically ill

2172-03-04 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --ECHO showed: Small to medium sized mobile mass (0.8 x 0.8 cm) in the
   body of the left atrium which appears to be attached to the base of the
   anterior mitral valve leaflet (differential diagnosis included
   thrombus, myxoma, vegetation, papillary fibroelastoma).
   --Spoke with sister [**Name (NI) 12308**] [**Name (NI) **] 50-[**Telephone/Fax (1) 12309**]. She is in agreement
   with current work-up plan
   --Intubated prior to MRI, BP dropped to 70's systolic likely [**1-7**]
   propofol, got levophed which was switched to phenylephrine and got 3L
   IVF
   --Had MRI, no read yet: 1.3 cm L Parietal cortex, enhancing.
   --Plan for TEE in am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2172-3-3**] 08:50 AM
   Metoprolol - [**2172-3-3**] 10:30 AM
   Haloperidol (Haldol) - [**2172-3-3**] 12:31 PM
   Vecuronium - [**2172-3-3**] 07:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-4**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (96.9
   HR: 110 (75 - 149) bpm
   BP: 92/54(62) {76/49(55) - 137/89(100)} mmHg
   RR: 21 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 77.2 kg (admission): 76 kg
             Total In:
                                                                  7,749 mL
                                                                  1,264 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                  5,419 mL
                                                                  1,204 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                    400 mL
   Urine:
                                                                  1,680 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,069 mL
                                                                    864 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 346 (346 - 402) mL
   RR (Set): 14
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 101
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: ///24/
   Ve: 8.3 L/min
   Physical Examination
   Gen: intubated, sedated, responds to voice
   Card: tachycardic, irregularly irregular, no m/r/g
   Pulm:CTAB anteriorly
   Abd:soft, NT, ND, no masses or organomegaly, BS+
   Ext: WWP, no c/c/e
   Labs / Radiology
   135 K/uL
   13.6 g/dL
   75 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.2 mEq/L
   9 mg/dL
   104 mEq/L
   137 mEq/L
   43.2 %
   10.0 K/uL
        [image002.jpg]
                             [**2172-3-3**]  02:35 AM
                             [**2172-3-4**]  03:01 AM
   WBC
   9.4
   10.0
   Hct
   45.1
   43.2
   Plt
   137
   135
   Cr
   0.5
   0.5
   TropT
   <0.01
   Glucose
   92
   75
   Other labs: CK / CKMB / Troponin-T:31//<0.01, ALT / AST:[**5-19**], Alk Phos
   / T Bili:49/0.3, Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %,
   Eos:1.9 %, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   53 yoM w/ a h/o schizoaffective disorder presents s/p fall with atrial
   flutter with a rapid ventricular response and possible intracranial
   lesion.
   .
   # Mitral Valve Mobile Mass: TEE today to better evaluate
   .
   # Elective Intubation: elective for studies
   --extubate after TEE, thoracentesis and bronch
   .
   # Atrial Flutter:HR in low 100's since initiating metoprolol
   --Getting TEE this am
   --continue to uptitrate Metoprolol and titrate up for HR<100- increase
   to 50mg pot id now
   .
   # MS Change: Does not seem pt at baseline. Concern for mass effect vs
   sz. Mass on mitral valve
   --MRI with L parietel mass. F/U final MRI read
   --F/U EEG read
   --F/U cxs
   .
   # Syncope: Most likely etiologies include Sz or Arrythmia, esp given
   new aflutter, or mitral inflow obstruction from LA mass on anterior
   leaflet of mitral valve
   .
    # L pleural effusion/ hilar mass / post obstructive PNA: Given hilar
   mass concern for malignant effusion.
   -bronch / thoracentesis as above
   -continue levo/flagyl
   .
   # Schizoaffective disorder:
   -continue home depakote and celexa
   -hold seroquel, trazodone, and prolixin given current sedation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-3-3**] 11:05 AM
   22 Gauge - [**2172-3-3**] 04:05 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   I have seen and examined the patient and concur with Dr [**First Name (STitle) 568**]
   assessment above.
   Mr [**Known lastname **] has concerning features on the MRI  Brain for metastases and a
   valvular lesion suspicious for tumor/ thrombus/ endocarditis. He is
   sedated / intubated pending completion of diagnostic testing. His
   sister [**Name (NI) 228**] has been contact[**Name (NI) **] and has provided consent for ongoing
   treatment.
   We plan on TEE today, then bronchoscopy/ thoracentesis to better assess
   airway and possibly diagnose effusion ( if malignant). If this is
   negative, he will need bronch/ EBUS by IP service on this admission.
   He may need a PICC Line for better access/ infusion therapy later
   today.
   Appreciate input from Neurology/ Cardiology Staff
   CC time:  60 mins
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**], M.D.
   Pulmonary, Critical Care and Sleep Medicine
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2172-3-4**] 12:33 ------

2172-03-05 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2172-3-4**] 12:33 PM
 BRONCHOSCOPY - At [**2172-3-4**] 01:36 PM
 THORACENTESIS - At [**2172-3-4**] 02:04 PM
 PICC LINE - START [**2172-3-4**] 06:08 PM
   [**2172-3-4**]
   -TEE confirmed left atrial mass but unable to distinguish between
   thrombus vs tumor
   -CTA performed (prelim report) shows left hilar mass extending into
   myocardium and left atrium
   -Patient required pressors during the day to maintain MAPs > 65 able to
   wean off at night
   -PICC line placed
   -IR consulted; plan for bronch at bedside [**2172-3-5**]
   -Thoracentesis performed; drained >1.6 L serosanguinous fluid
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2172-3-4**] 01:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-5**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 120 (84 - 131) bpm
   BP: 83/58(64) {67/37(46) - 117/83(90)} mmHg
   RR: 15 (9 - 29) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 77.2 kg (admission): 76 kg
    Mixed Venous O2% Sat: 79 - 79
   Total In:
                                                                  4,301 mL
                                                                    713 mL
   PO:
   TF:
   IVF:
                                                                  3,971 mL
                                                                    653 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    360 mL
   Urine:
                                                                  1,000 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,301 mL
                                                                    353 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 99
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 6.2 L/min
   Physical Examination
   Gen: intubated, sedated, responds to voice
   Card: tachycardic, irregularly irregular, no m/r/g
   Pulm:CTAB anteriorly
   Abd:soft, NT, ND, no masses or organomegaly, BS+
   Ext: WWP, no c/c/e
   Labs / Radiology
   [**2172-3-4**] CTA CHEST:  no acute aortic pathology. dilated main PA 3.6 cm.
   no PE. large mass centered in the left hilus again identified. It
   narrows the left mainstem bronchus as well as left upper lobe bronchus,
   with complete obstruction of the lower and lingular bronchi. It appears
   to directly invade the pericardium and myocardium, extending
   exophytically in the left atrium via the posterior wall. the left
   inferior pulm vein is not opacified, c/w occlusion and possible
   invasion of this structure as well. unchanged prominent mediastinal
   lymph nodes. bilateral lung nodules as described on prior non-contrast
   study. Left effusion and post-obstructive collapse/pneumonities,
   increased from prior study. sclerotic lesion in the lateal right 4th
   rib concerning for additional metastatic disease.
   [**2172-3-4**] TEE:
   A mass is seen in the poterior wall of the left atrium near the site of
   the left upper pulmonary vein (not seen). The left atrial mass has a
   broad base measuring 2.5 x 0.8 cm with a miobile, stalk-like aspect
   measuring 3 x 0.7 cm- ? Thrombus versus extension of mass. The left
   atiral appendage is seen and is free of mass or thrombus. No mass or
   thrombus is seen in the right atrium or right atrial appendage. Right
   ventricular chamber size and free wall motion are normal. There are
   simple atheroma in the descending thoracic aorta. The aortic valve
   leaflets (3) are mildly thickened. No aortic regurgitation is seen. The
   mitral valve leaflets are mildly thickened. No mass or vegetation is
   seen on the mitral valve. Mild (1+) mitral regurgitation is seen. There
   is a small circumferential pericardial effusion.
   IMPRESSION: Heterogenous mass with broad base (2.5 x 1.8 cm) and mobile
   stalk (3 x 0.7 cm) seen in the left posterior atrial wall adjacent to
   entrance of the left lower pulmonary vein and possibly occluding the
   entrance of the left upper pulmonary vein (not seen). The mass may be
   entering the left atrium via the left upper pulmonary vein. No valvular
   vegetations seen. Mild mitral regurgitation. Normal biventricular
   systolic function. Small pericardial effusion seen. Bilateral pelural
   effusions seen.
   [**2172-3-3**] MRI brain:
   Focal enhancement and edema centered around the left postcentral
   gyrus is concerning for a mestastasis given the location and large
   pulmonary
   mass on the chest CT. Additional differential considerations would
   include
   infection or a primary brain tumor. The appearance would be unusual for
   a
   vascular malformation, despite the prominent superficial vessel, and
   also
   unusual for an evolving infarct. A repeat study with the leads removed
   and
   addition of perfusion sequences would be useful in further evaluation.
   113 K/uL
   13.1 g/dL
   78 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.2 mEq/L
   9 mg/dL
   107 mEq/L
   138 mEq/L
   39.5 %
   7.5 K/uL
        [image002.jpg]
                             [**2172-3-3**]  02:35 AM
                             [**2172-3-4**]  03:01 AM
                             [**2172-3-5**]  02:46 AM
   WBC
   9.4
   10.0
   7.5
   Hct
   45.1
   43.2
   39.5
   Plt
   137
   135
   113
   Cr
   0.5
   0.5
   0.4
   TropT
   <0.01
   Glucose
   92
   75
   78
   Other labs: CK / CKMB / Troponin-T:31//<0.01, ALT / AST:[**5-19**], Alk Phos
   / T Bili:49/0.3, Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %,
   Eos:1.9 %, Lactic Acid:0.9 mmol/L, LDH:232 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HYPOMAGNESEMIA (LOW MAGNESEIUM)
 PLEURAL EFFUSION, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
   53 yoM w/ a h/o schizoaffective disorder presents s/p fall with atrial
   flutter with a rapid ventricular response and possible intracranial
   lesion.
   .
   # Left atrial mass: TEE was able to visual mass but did not narrow the
   differential.  CTA chest was performed overnight. Preliminary reports
   suggests left hilar mass that extends into the left atrium and
   pulmonary veins.
   - consider oncology consult today though cytology is still pending
   - IP consult given high risk of intrabronchial bleeding
   .
   # L pleural effusion/ hilar mass / post obstructive PNA: Given hilar
   mass concern for malignant effusion.
   -bedside bronchoscopy yesterday revealed necrotic mass in left mainstem
   bronchus with friable tissue
   -f/u pleural fluid cytology and microbiology
   -continue levo/flagyl
   .
   # Elective Intubation: elective for studies
   --plan to extubate after bronchoscopy
   .
   # Atrial Flutter:HR in low 100's since initiating metoprolol;  A
   flutter likely due to left atrial mass.  No role for anticoagulation at
   this time given likely brain mets and friable tissue seen on bronch.
   --increase metoprolol to 75 mg po tid
   .
   # MS Change: Does not seem pt at baseline. Concern for mass effect vs
   sz. Mass on mitral valve
   --MRI with L parietel lesion consistent with likely metastasis
   --F/U EEG read
   --F/U cxs
   .
   # Syncope: Most likely etiologies include Sz or Arrythmia, esp given
   new aflutter, or mitral inflow obstruction from LA mass on anterior
   leaflet of mitral valve
   .
   # Schizoaffective disorder:
   -continue home depakote and celexa
   -hold seroquel, trazodone, and prolixin given current sedation
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   22 Gauge - [**2172-3-3**] 04:05 PM
   20 Gauge - [**2172-3-4**] 08:24 AM
   PICC Line - [**2172-3-4**] 06:08 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:
   VAP:  mouth washes, HOB > 30
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending extubation

2172-03-05 08:58:00 Physician Attending Progress Note
Chief Complaint:  Syncope
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Left lung mass, CNS lesion ( brain met?), LA mass, pleural
   effusion
   24 Hour Events:
   TEE with confirmation LA mass, unclear extension to pulmonary
   CTA with mass extending from L hilum with invasion into pericardium and
   [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) **] with friable mass within L mainstem bronchus, seen by IP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2172-3-4**] 01:19 PM
   Propofol - [**2172-3-5**] 08:15 AM
   Other medications:
   simvastatin
   flagyl 500 tid
   levaquin 750
   propofol
   divalproate
   celexa
   atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-5**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (97
   HR: 124 (84 - 131) bpm
   BP: 143/127(131) {67/37(46) - 143/127(131)} mmHg
   RR: 30 (9 - 30) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 77.2 kg (admission): 76 kg
   Mixed Venous O2% Sat: 79 - 79
   Total In:
                                                                  4,301 mL
                                                                    784 mL
   PO:
   TF:
   IVF:
                                                                  3,971 mL
                                                                    664 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    450 mL
   Urine:
                                                                  1,000 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,301 mL
                                                                    334 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 99
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 6.2 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   anteriorly R, Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Sedated, Tone: Decreased
   Labs / Radiology
   13.1 g/dL
   113 K/uL
   78 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.2 mEq/L
   9 mg/dL
   107 mEq/L
   138 mEq/L
   39.5 %
   7.5 K/uL
        [image002.jpg]
                             [**2172-3-3**]  02:35 AM
                             [**2172-3-4**]  03:01 AM
                             [**2172-3-5**]  02:46 AM
   WBC
   9.4
   10.0
   7.5
   Hct
   45.1
   43.2
   39.5
   Plt
   137
   135
   113
   Cr
   0.5
   0.5
   0.4
   TropT
   <0.01
   Glucose
   92
   75
   78
   Other labs: CK / CKMB / Troponin-T:31//<0.01, ALT / AST:[**5-19**], Alk Phos
   / T Bili:49/0.3, Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %,
   Eos:1.9 %, Lactic Acid:0.9 mmol/L, LDH:232 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.2 mg/dL
   Imaging: Chest CT prelim with hilar mass invading heart
   Assessment and Plan
   53 YO M schizoaffective d/o, presents with fall/aflutter, now found to
   have hilar/atrial mass
   1. Mass: malignant in nature
    - awaiting [**Female First Name (un) **] and bal washing data
    - IP bronchoscopy today to evaluate for bleeding and possible
   palliative procedure
    - if above studies are nondiagnostic, will need additional tissue for
   diagnosis
   2. ? Pna: no evidence active infection
    - will d/c levo and flagyl after extubation if not febrile/ unstable
   3. Respiratory failure: now limited by mental status and possible
   further procedures
    - will f/u IP bronchoscopy
    - f/[**Location 134**] chest CT
   4. Aflutter: [**1-7**] cardiac mass and aggitation
    - nicotine patch
    - continue lopressor and dilt
   5. Mental status:
    - L parietal lesion c/w metastases
    - EEG pending
    - cont depakote and celexa
    - will restart prolixin once sedation discontinued
   6. FEN:
    - currently NPO for extubation, if no extubation today, will start
   tube feeds
   7. Decision-making:
    - awaiting guardianship decisions
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2172-3-3**] 04:05 PM
   20 Gauge - [**2172-3-4**] 08:24 AM
   PICC Line - [**2172-3-4**] 06:08 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2172-03-06 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2172-3-5**] 11:00 AM
 OR SENT - At [**2172-3-5**] 03:00 PM
 OR RECEIVED - At [**2172-3-5**] 03:45 PM
   -IP: Rigid bronch in OR- stent placed and transbronchial biopsy, post
   bronch L lung collapse plan for repeat bronch  in a.m. [**3-6**]
   -onc, rad onc, and palliative care consulted
   -lopressor decreased to 50mg po tid given increasing pressor
   requirement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2172-3-5**] 10:00 PM
   Metoprolol - [**2172-3-6**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-6**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 131 (85 - 141) bpm
   BP: 86/62(67) {77/49(58) - 133/87(99)} mmHg
   RR: 16 (12 - 31) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 77.2 kg (admission): 76 kg
             Total In:
                                                                  5,708 mL
                                                                    283 mL
   PO:
             TF:
   IVF:
                                                                  4,478 mL
                                                                    223 mL
   Blood products:
   Total out:
                                                                  1,063 mL
                                                                    440 mL
   Urine:
                                                                  1,063 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,645 mL
                                                                   -157 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 556 (556 - 556) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 8.2 L/min
   Physical Examination
   Gen: intubated, sedated, responds to voice
   Card: tachycardic, irregularly irregular, no m/r/g
   Pulm:CTAB anteriorly
   Abd:soft, NT, ND, no masses or organomegaly, BS+
   Ext: WWP, no c/c/e
   Labs / Radiology
   168 K/uL
   14.3 g/dL
   77 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.3 mEq/L
   7 mg/dL
   104 mEq/L
   137 mEq/L
   42.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2172-3-3**]  02:35 AM
                             [**2172-3-4**]  03:01 AM
                             [**2172-3-5**]  02:46 AM
                             [**2172-3-5**]  04:47 PM
                             [**2172-3-6**]  02:24 AM
   WBC
   9.4
   10.0
   7.5
   10.9
   11.7
   Hct
   45.1
   43.2
   39.5
   42.8
   42.9
   Plt
   137
   135
   113
   173
   168
   Cr
   0.5
   0.5
   0.4
   0.4
   TropT
   <0.01
   Glucose
   92
   75
   78
   77
   Other labs: PT / PTT / INR:13.5/28.7/1.2, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:[**5-19**], Alk Phos / T Bili:49/0.3,
   Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %, Eos:1.9 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.2 g/dL, LDH:230 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 OLIGURIA/ANURIA
 CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ATRIAL FLUTTER (AFLUTTER)
 HYPOTENSION (NOT SHOCK)
 PLEURAL EFFUSION, ACUT
   53 yoM w/ a h/o schizoaffective disorder presents s/p fall with atrial
   flutter with a rapid ventricular response, intracranial lesion, and
   lung mass.
   .
    # Left atrial mass:  Left hilar mass extending to right atrium highly
   suggestive of primary lung malignancy.
   - IP to perform bronchoscopy today to assess for palliative options
   - consult oncology today
    -f/u cytology
   .
   # L pleural effusion/ hilar mass / post obstructive PNA: Given hilar
   mass concern for malignant effusion.
   -bedside bronchoscopy yesterday revealed necrotic mass in left mainstem
   bronchus with friable tissue
   -f/u pleural fluid cytology and microbiology
   -hold levo/flagyl for now given afebrile, no wbc ct
   .
   # Respiratory Status: Currently intubated
   --discuss whether cardiac MR would be indicated before extubating
   --lighten sedation in anticipation of extubation
   .
   # Atrial Flutter:HR in low 100's since initiating metoprolol;  A
   flutter likely due to left atrial mass.  No role for anticoagulation at
   this time given likely brain mets and friable tissue seen on bronch.
   --increase metoprolol to 75 mg po tid
   .
   # MS Change: Likely related to mass effect  vs sz.
   --MRI with L parietel lesion consistent with likely metastasis
   --F/U EEG read
   .
   # Syncope: Most likely etiologies include Sz or Arrythmia, esp given
   new aflutter, or mitral inflow obstruction from LA mass on anterior
   leaflet of mitral valve
   .
   # Schizoaffective disorder:
   -continue home depakote and celexa
   -restart  home regimen of prolixin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-3-4**] 08:24 AM
   PICC Line - [**2172-3-4**] 06:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-03-06 09:25:00 Physician Attending Progress Note
Chief Complaint:   Syncope
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: respiratory failure, left lung mass, pleural effusion, brain
   metastasis
   24 Hour Events:
   Bronchoscopy with stent to RMS and tbbx
   post-bronchoscopy bx with collapse L lung, but maintained normal
   respiratory mechanics
   seen by oncology, radiation oncology, palliative care
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2172-3-6**] 03:15 AM
   Propofol - [**2172-3-6**] 08:10 AM
   Other medications:
   folic acid
   thiamine
   propofol
   divalproate
   atrovent
   celexa
   nicotine 21 mg
   cogentin 0.5 [**Hospital1 **]
   levaquin 750 q 24
   flagyl
   lopressor 50 TID
   chlorhexadine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-6**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 124 (85 - 141) bpm
   BP: 101/65(74) {77/49(58) - 133/87(99)} mmHg
   RR: 20 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 77.2 kg (admission): 76 kg
             Total In:
                                                                  5,708 mL
                                                                    383 mL
   PO:
             TF:
   IVF:
                                                                  4,478 mL
                                                                    243 mL
   Blood products:
   Total out:
                                                                  1,063 mL
                                                                    515 mL
   Urine:
                                                                  1,063 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,645 mL
                                                                   -132 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: left, Diminished: Left)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Decreased
   Labs / Radiology
   14.3 g/dL
   168 K/uL
   77 mg/dL
   0.4 mg/dL
   24 mEq/L
   4.3 mEq/L
   7 mg/dL
   104 mEq/L
   137 mEq/L
   42.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2172-3-3**]  02:35 AM
                             [**2172-3-4**]  03:01 AM
                             [**2172-3-5**]  02:46 AM
                             [**2172-3-5**]  04:47 PM
                             [**2172-3-6**]  02:24 AM
   WBC
   9.4
   10.0
   7.5
   10.9
   11.7
   Hct
   45.1
   43.2
   39.5
   42.8
   42.9
   Plt
   137
   135
   113
   173
   168
   Cr
   0.5
   0.5
   0.4
   0.4
   TropT
   <0.01
   Glucose
   92
   75
   78
   77
   Other labs: PT / PTT / INR:13.5/28.7/1.2, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:[**5-19**], Alk Phos / T Bili:49/0.3,
   Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %, Eos:1.9 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.2 g/dL, LDH:230 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   53 yo M smoker, schizoaffective d/o
   1. L hilar mass likely malignant
    - await tissue diagnosis
    - repeat bronch today for L lung collapse
    - pursuing guardianship urgently
    - onc/radonc following, possible radiation if unable to extubate
   - steroids to help with bronchospasm
   2. Mental status:
    - will reassess mental status off propofol, may require adjustment in
   standing antispychotics
    - cont ciwa/thiamine/folate
    - EEG with diffuse slowing
    - cont meds for schizoaffective d/o
   3. Atrial flutter:
    - cont lopressor
    - would consider dig if no response
    - likely difficult to maintian HR response given invasive mass
    - hold off on IVF for now while off pressors given increased anasarca
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2172-3-4**] 08:24 AM
   PICC Line - [**2172-3-4**] 06:08 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2172-03-07 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   IP bronched, got mucous out of stent
   started verapamil 80 Q8
   pt stable for 30 min on PSV
   started seroquel 50 q8
   arterial line placed
   completed legal guardian paperwork
   started methyprednisone
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2172-3-6**] 08:00 AM
   Metronidazole - [**2172-3-6**] 12:01 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2172-3-6**] 11:00 AM
   Propofol - [**2172-3-7**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-7**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 106 (78 - 143) bpm
   BP: 103/68(81) {86/57(66) - 119/75(92)} mmHg
   RR: 18 (15 - 22) insp/min
   SpO2: 96%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 77.2 kg (admission): 76 kg
   Height: 72 Inch
             Total In:
                                                                  1,227 mL
                                                                    666 mL
   PO:
             TF:
                                                                    150 mL
                                                                    206 mL
   IVF:
                                                                    627 mL
                                                                    240 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    515 mL
   Urine:
                                                                  1,000 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    227 mL
                                                                    151 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 344 (344 - 344) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 12 cmH2O
   Plateau: 15 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.37/49/132/26/2
   Ve: 7.8 L/min
   PaO2 / FiO2: 264
   Physical Examination
   Gen: intubated, opens eyes to verbal stim
   Lungs: No breath sounds at left base and mid-lung, clear on right
   Heart: s1/s2 present, no murmurs
   Abd: +BS, soft, NT
   Ext: no LE edema
   Labs / Radiology
   124 K/uL
   12.8 g/dL
   145 mg/dL
   0.4 mg/dL
   26 mEq/L
   4.4 mEq/L
   9 mg/dL
   104 mEq/L
   136 mEq/L
   39.9 %
   6.9 K/uL
        [image002.jpg]
                             [**2172-3-3**]  02:35 AM
                             [**2172-3-4**]  03:01 AM
                             [**2172-3-5**]  02:46 AM
                             [**2172-3-5**]  04:47 PM
                             [**2172-3-6**]  02:24 AM
                             [**2172-3-7**]  12:22 AM
                             [**2172-3-7**]  12:42 AM
   WBC
   9.4
   10.0
   7.5
   10.9
   11.7
   6.9
   Hct
   45.1
   43.2
   39.5
   42.8
   42.9
   39.9
   Plt
   137
   135
   113
   173
   168
   124
   Cr
   0.5
   0.5
   0.4
   0.4
   0.4
   TropT
   <0.01
   TCO2
   29
   Glucose
   92
   75
   78
   77
   145
   Other labs: PT / PTT / INR:14.2/29.3/1.2, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:[**5-19**], Alk Phos / T Bili:49/0.3,
   Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %, Eos:1.9 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:164 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 OLIGURIA/ANURIA
 CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ATRIAL FLUTTER (AFLUTTER)
 HYPOTENSION (NOT SHOCK)
 PLEURAL EFFUSION, ACUTE
   ==========================
   53 yoM w/ a h/o schizoaffective disorder presents s/p fall with atrial
   flutter with a rapid ventricular response, intracranial lesion, and
   lung mass.
   .
   # Respiratory  failure:  Tolerating PSV
   --turn off propofol
   --SBT today and check ABG
   --possible extubation
   .
   # L hilar mass/Brain Mass- Strong suspicion for advanced primary lung
   ca. Now s/p L bronchial stent.
   --Awaiting pathology results
   --onc, rad onc, and palliative care have been consulted
   .
   #Guardianship: Paperwork for legal guardianship filed [**2172-3-6**].
   .
   # Atrial Flutter: Improved rate control since starting Verapamil though
   80 TID dosing dropping pressures.
   --Cont with Verapamil 40mg TID
   --Titrate down Metoprolol 50mg TID to improve BP
   .
   # MS Change: Likely related to mass effect
   -- neuro waiting to reassess MS [**First Name (Titles) 3385**] [**Last Name (Titles) **]
   -- EEG w/ slowing
   .
   # Nutrition: Started on TF
   --advance to goal
   .
   # Schizoaffective disorder:
   --continue home depakote, celexa,prolixin, seroquel given sedation
   ICU Care
   Nutrition: Hold TF
   Replete with Fiber (Full) - [**2172-3-6**] 06:29 PM 40 mL/hour
   Glycemic Control: none needed
   Lines:
   PICC Line - [**2172-3-4**] 06:08 PM
   Arterial Line - [**2172-3-6**] 09:33 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Famotidone
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2172-03-07 10:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   started on verapamil with improved heart rate and then spontanously
   converted to SR this am
   PSV overnight but demonstrated increased wob on R
   started seroquel for periextubation aggitation
   aline placed overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2172-3-6**] 12:01 PM
   Levofloxacin - [**2172-3-7**] 08:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2172-3-6**] 11:00 AM
   Propofol - [**2172-3-7**] 04:00 AM
   Other medications:
   folic acid
   thiamine
   depakote
   seroquel
   methylpred
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-7**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.5
   HR: 86 (78 - 143) bpm
   BP: 109/73(86) {86/57(66) - 119/76(92)} mmHg
   RR: 12 (12 - 22) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 77.2 kg (admission): 76 kg
   Height: 72 Inch
             Total In:
                                                                  1,227 mL
                                                                  1,248 mL
   PO:
             TF:
                                                                    150 mL
                                                                    449 mL
   IVF:
                                                                    627 mL
                                                                    520 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                  1,115 mL
   Urine:
                                                                  1,000 mL
                                                                  1,115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    227 mL
                                                                    133 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 458 (344 - 458) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.34/59/120/26/4
   Ve: 7.5 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: Lsided)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.8 g/dL
   124 K/uL
   145 mg/dL
   0.4 mg/dL
   26 mEq/L
   4.4 mEq/L
   9 mg/dL
   104 mEq/L
   136 mEq/L
   39.9 %
   6.9 K/uL
        [image002.jpg]
                             [**2172-3-3**]  02:35 AM
                             [**2172-3-4**]  03:01 AM
                             [**2172-3-5**]  02:46 AM
                             [**2172-3-5**]  04:47 PM
                             [**2172-3-6**]  02:24 AM
                             [**2172-3-7**]  12:22 AM
                             [**2172-3-7**]  12:42 AM
                             [**2172-3-7**]  06:38 AM
   WBC
   9.4
   10.0
   7.5
   10.9
   11.7
   6.9
   Hct
   45.1
   43.2
   39.5
   42.8
   42.9
   39.9
   Plt
   137
   135
   113
   173
   168
   124
   Cr
   0.5
   0.5
   0.4
   0.4
   0.4
   TropT
   <0.01
   TCO2
   29
   33
   Glucose
   92
   75
   78
   77
   145
   Other labs: PT / PTT / INR:14.2/29.3/1.2, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:[**5-19**], Alk Phos / T Bili:49/0.3,
   Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %, Eos:1.9 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:164 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   53 yo M schizoaffective disorder, bipolar, smoker, presents with fall,
   found to have mediastinal mass with metastasis
   1. Respiratory failure: intubated to facilitate MRI, now difficult to
   extubate [**1-7**] post-obstructive pna and mental status
    - wean sedation
    - SBT
    - seroquel for aggiation
   2. Hilar mass with likely mets
    - cytology and pathology pending
    - guardianship to assist with goals of care decision-making in process
   3. Post-obstructive pna: cont levo and flagyl
   3. Aflutter: now sinus
    - decrease lopressor, cont verapamil
   4. Mental status changes:
    - will reassess off propofol
   5. Nutrition:
    - advancing tube feeds
   6. Communication:
    - daily updates with patient's sister
    - awaiting court-appointed guardian
   ICU [**Name2 (NI) 151**]
   Nutrition:
   Replete with Fiber (Full) - [**2172-3-7**] 08:04 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2172-3-4**] 06:08 PM
   Arterial Line - [**2172-3-6**] 09:33 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2172-03-08 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered Mental Status
   24 Hour Events:
   [**2172-3-7**]:
   SBT unsuccessful as pO2 fell to <70
   Patient reentered nsr
   Metoprolol weaned down to 12.5 mg TID
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2172-3-7**] 08:00 AM
   Metronidazole - [**2172-3-7**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-8**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 63 (62 - 104) bpm
   BP: 97/57(72) {89/51(65) - 125/76(92)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.2 kg (admission): 76 kg
   Height: 72 Inch
             Total In:
                                                                  2,784 mL
                                                                    537 mL
   PO:
             TF:
                                                                  1,192 mL
                                                                    225 mL
   IVF:
                                                                    962 mL
                                                                    192 mL
   Blood products:
   Total out:
                                                                  2,315 mL
                                                                    725 mL
   Urine:
                                                                  2,315 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    469 mL
                                                                   -188 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 368 (368 - 458) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: 7.38/57/160/30/7
   Ve: 5.1 L/min
   PaO2 / FiO2: 320
   Physical Examination
   Gen: intubated, opens eyes to verbal stimulation  and commands
   Lungs: No breath sounds at left base and mid-lung, clear on right
   Heart: s1/s2 present, no murmurs
   Abd: +BS, soft, NT
   Ext: no LE edema
   Neuro: following commands; RUE weakness
   R testicular mass: firm one cm2 mobile nodule
   Labs / Radiology
   153 K/uL
   12.3 g/dL
   162 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.3 mEq/L
   13 mg/dL
   105 mEq/L
   140 mEq/L
   37.3 %
   13.7 K/uL
        [image002.jpg]
                             [**2172-3-5**]  02:46 AM
                             [**2172-3-5**]  04:47 PM
                             [**2172-3-6**]  02:24 AM
                             [**2172-3-7**]  12:22 AM
                             [**2172-3-7**]  12:42 AM
                             [**2172-3-7**]  06:38 AM
                             [**2172-3-7**]  11:11 AM
                             [**2172-3-7**]  12:20 PM
                             [**2172-3-8**]  04:07 AM
                             [**2172-3-8**]  04:16 AM
   WBC
   7.5
   10.9
   11.7
   6.9
   13.7
   Hct
   39.5
   42.8
   42.9
   39.9
   37.3
   Plt
   113
   173
   168
   124
   153
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   29
   33
   32
   33
   35
   Glucose
   78
   77
   145
   162
   Other labs: PT / PTT / INR:14.2/29.3/1.2, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:[**5-19**], Alk Phos / T Bili:49/0.3,
   Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %, Eos:1.9 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:164 IU/L, Ca++:9.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 OLIGURIA/ANURIA
 CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ATRIAL FLUTTER (AFLUTTER)
 HYPOTENSION (NOT SHOCK)
 PLEURAL EFFUSION, ACUTE
   53 yoM w/ a h/o schizoaffective disorder presents s/p fall with atrial
   flutter with a rapid ventricular response, intracranial lesion, and
   lung mass.
   .
   # Respiratory  failure:  Tolerating PSV
   --turn off propofol
   --SBT today and check ABG
   --possible extubation
   .
   # Leukocytosis: No fevers, patient with several possible sources of
   infection including aspiration, post obstructive pneumonia, UTI.
   Patient also recently started on high dose steroids for bronchospasms.
   - follow up culture data
   - continue to trend
   .
   # L hilar mass/Brain Mass- Strong suspicion for advanced primary lung
   ca. Now s/p L bronchial stent.
   --Awaiting pathology results
   --onc, rad onc, and palliative care have been consulted
   .
   #Guardianship: Paperwork for legal guardianship filed [**2172-3-6**].
   .
   # Atrial Flutter: Improved rate control since starting Verapamil though
   80 TID dosing dropping pressures.
   --Cont with Verapamil 40mg TID
   --discontinue metoprolol
   .
   # R sided weakness: Uncertain degree of weakness given limited mental
   status.  Right sided weakness concerning for bleed at site of suspected
   brain metastases or possible mass effect.  Also concerning for emboli
   from cardiac mass/thrombosis.
   --CT head while intubated
   -- follow up neuro recs.
   # MS Change: Likely related to mass effect
   -- neuro waiting to reassess MS [**First Name (Titles) 3385**] [**Last Name (Titles) **]
   -- EEG w/ slowing
   .
   # Nutrition: Started on TF
   --advance to goal
   .
   # Schizoaffective disorder:
   --continue home depakote, celexa,prolixin, seroquel given sedation
   ICU Care
   Nutrition: Tube Feeds, trial of pos after extubation
   Glycemic Control:
   Lines:
   PICC Line - [**2172-3-4**] 06:08 PM
   Arterial Line - [**2172-3-6**] 09:33 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  famotidine
   VAP:  HOB> 30, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending extubation

2172-03-08 11:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yr old heavy smoker, schizoaffective/bipolar, alcoholism, presented
   after fall, found to have mediastinal mass compressing pulm vein, LLL
   atelectasis and encasing L mainstem bronchus, also with RUE weakness,
   ?mets to brain on CT, and TEE with echogenic mass in RA
   24 Hour Events:
   Failed SBT with tachycardia, HTN, decreased SaO2
   Awaiting MRI brain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2172-3-7**] 12:00 PM
   Levofloxacin - [**2172-3-8**] 08:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   folic acid
   thiamine
   atrivent
   celexa
   benztropine
   levaquin
   flagyl
   famotidine
   seroquel 50 q8
   solumedrol 125 q8
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-8**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 66 (62 - 80) bpm
   BP: 94/56(70) {89/51(65) - 125/73(92)} mmHg
   RR: 18 (13 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.2 kg (admission): 76 kg
   Height: 72 Inch
             Total In:
                                                                  2,784 mL
                                                                    729 mL
   PO:
             TF:
                                                                  1,192 mL
                                                                    225 mL
   IVF:
                                                                    962 mL
                                                                    244 mL
   Blood products:
   Total out:
                                                                  2,315 mL
                                                                    945 mL
   Urine:
                                                                  2,315 mL
                                                                    945 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    469 mL
                                                                   -216 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 378 (368 - 419) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: 7.38/57/70/30/6
   Ve: 8.5 L/min
   PaO2 / FiO2: 140
   Physical Examination
   GeneraL ; intubated, sedated, following commands
   HEENT: PERRL, EOMI, intubated
   CV: S1/S2 regular
   CHEST: rhonchorous breath sounds on L, exp wheeze on R
   ABD: soft, nt, nd
   EXT: wwp, no c/c/e
   NEURO: moving L arm spontaneously and to commands 2+ strength, R arm 0
   strength, no grip not lifting off bed
   Labs / Radiology
   12.3 g/dL
   153 K/uL
   162 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.3 mEq/L
   13 mg/dL
   105 mEq/L
   140 mEq/L
   37.3 %
   13.7 K/uL
        [image002.jpg]
                             [**2172-3-5**]  04:47 PM
                             [**2172-3-6**]  02:24 AM
                             [**2172-3-7**]  12:22 AM
                             [**2172-3-7**]  12:42 AM
                             [**2172-3-7**]  06:38 AM
                             [**2172-3-7**]  11:11 AM
                             [**2172-3-7**]  12:20 PM
                             [**2172-3-8**]  04:07 AM
                             [**2172-3-8**]  04:16 AM
                             [**2172-3-8**]  07:52 AM
   WBC
   10.9
   11.7
   6.9
   13.7
   Hct
   42.8
   42.9
   39.9
   37.3
   Plt
   173
   168
   124
   153
   Cr
   0.4
   0.4
   0.4
   TCO2
   29
   33
   32
   33
   35
   35
   Glucose
   77
   145
   162
   Other labs: PT / PTT / INR:14.2/29.3/1.2, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:[**5-19**], Alk Phos / T Bili:49/0.3,
   Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %, Eos:1.9 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:164 IU/L, Ca++:9.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   53 yo M schizoaffective d/o, bipolar, smoker, found to have mediastinal
   mass with metastases
   1. Respiratory failure:
    - improving aeration on cxr this am, tolerated SBT
    - will aim for extubation today
    - cont levaquin for post-obstructive pneumonia
    - taper steriods: 60 mg qday
   2. Leukocytosis: likely [**1-7**] steroids, monitor for s/sx infection, no
   fevers
   3. Malignancy: scrotal mass noted overnight, bronch cyto and path
   pending
    - f/u tissue diagnosis
    - cont guardianship proceedings to assist with overall goc
   4. AFIB: now back in sinus rhythm with spontaneous conversion
    - d/c lopressor
    - not a candidate for a/c
   5. New R sided weakness:
    - reassess once extubated, concern for embolic event
    - head CT
   6. FEN: tube feeds
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2172-3-4**] 06:08 PM
   Arterial Line - [**2172-3-6**] 09:33 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   consent signed:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2172-03-09 07:20:00 Physician Resident Progress Note
Chief Complaint: Fall, question of SAH
   24 Hour Events:
   -R arm weakness, CT and MRI head performed (prelim read w/o significant
   change)
   -neuro re-consulted, suggested CT/MRI and stated the mass could be
   causing the weakness (although the weakness is new)
   -extubation deferred until early a.m. given late MRI
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2172-3-8**] 08:00 AM
   Metronidazole - [**2172-3-8**] 01:30 PM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2172-3-9**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-9**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 76 (60 - 94) bpm
   BP: 126/70(90) {85/51(64) - 167/95(123)} mmHg
   RR: 23 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.7 kg (admission): 76 kg
   Height: 72 Inch
             Total In:
                                                                  1,168 mL
                                                                     70 mL
   PO:
             TF:
                                                                    225 mL
   IVF:
                                                                    503 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  1,355 mL
                                                                    305 mL
   Urine:
                                                                  1,355 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -187 mL
                                                                   -235 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 398 (357 - 428) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 85
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.38/57/70/35/6
   Ve: 6 L/min
   PaO2 / FiO2: 140
   Physical Examination
   General: Sleepy but arousable. Intubated, sedation just turned off
   HEENT: PEARL, anicteric
   CV: Regular no murmur appreciated
   Pulm: Lungs with bronchial breath sounds and few rales on L, crackles
   on right lower lobe on back
   Abd: Soft nontender +bowel sounds
   Extrem: Warm minimal edema strong distal pulses
   Neuro: Opens eyes to voice, shakes head when asked if he is having
   pain. Able to squeeze hands bilaterally Lstronger than R, wiggle toes
   on bilateral feet.
   R picc in place, no erythema or tenderness
   Labs / Radiology
   123 K/uL
   11.4 g/dL
   113 mg/dL
   0.3 mg/dL
   35 mEq/L
   4.1 mEq/L
   14 mg/dL
   105 mEq/L
   143 mEq/L
   36.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2172-3-6**]  02:24 AM
                             [**2172-3-7**]  12:22 AM
                             [**2172-3-7**]  12:42 AM
                             [**2172-3-7**]  06:38 AM
                             [**2172-3-7**]  11:11 AM
                             [**2172-3-7**]  12:20 PM
                             [**2172-3-8**]  04:07 AM
                             [**2172-3-8**]  04:16 AM
                             [**2172-3-8**]  07:52 AM
                             [**2172-3-9**]  03:30 AM
   WBC
   11.7
   6.9
   13.7
   7.8
   Hct
   42.9
   39.9
   37.3
   36.1
   Plt
   168
   124
   153
   123
   Cr
   0.4
   0.4
   0.4
   0.3
   TCO2
   29
   33
   32
   33
   35
   35
   Glucose
   77
   145
   162
   113
   Other labs: PT / PTT / INR:14.2/29.3/1.2, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:[**5-19**], Alk Phos / T Bili:49/0.3,
   Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %, Eos:1.9 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:102, Ca++:9.0 mg/dL, Mg++:1.9
   mg/dL, PO4:2.1 mg/dL
   Micro
   [**3-5**] urine negative
   [**3-4**] pleural fluid no polys or organisms
   [**3-3**] blood cx NGTD
   4.4 MRI head (prelim)
   No acute changes of the L parietal lesion. No evidence of acute
   hemrrhage.
   Post-contrast images show only minimal-to-mild enhancement. Unchanged
   restricted diffusion around. Interval sphenoid mucosal thickening.
   4.4 CT head
   1. Left parietal gyral hyperdensity with surrounding vasogenic edema.
   This
   is concerning for metastatic disease, although differential
   considerations
   include infection or primary brain tumor. No new foci of hemorrhage
   identified.
   4.4 CXR
   No significant change is seen in the appearances on the left chest. The
   size
   of the left effusion remains unchanged. The position of the
   endotracheal tube
   and nasogastric tube is also unchanged. The right chest remains clear.
   IMPRESSION: No change.
   Assessment and Plan
   53 yoM w/ a h/o schizoaffective disorder presents s/p fall with atrial
   flutter with a rapid ventricular response, intracranial lesion, and
   lung mass.
   .
   # Hypoxic respiratory failure: s/p intubation for 5 days. [**Month/Year (2) **]
   successfully today
   - continue abx for possible PNA (levo/flagyl)
   - NC O2 to keep O2 sats >88%
   - IV diuresis with goal 500ml out
   # R sided weakness:
   Suspect this is due to L parietal lesion
   -- serial neuro recs
   -- continue prednisone, consider changing to dex
   -- follow up final read MRI
   -- follow up neuro recs.
   .
   # L hilar mass/Brain Mass- Strong suspicion for advanced primary lung
   ca. Now s/p L bronchial stent.
   --Awaiting pathology results
   --f/u cytology results
   --onc, rad onc, and palliative care have been consulted
   .
   # MS Change: Likely related to mass effect
   -- neuro waiting to reassess MS [**First Name (Titles) 3385**] [**Last Name (Titles) **]
   -- EEG w/ slowing
   .
   # ?Pna and leukocytosis
   WBC trended down,  no significant fevers. Suspect aspiration pna vs
   post-obstructive pna.
   - continue levo/flagyl x8d course
   - follow up culture data
   - continue to trend
   .
   # Testicular mass
   Concern for mets given known lung CA
   - Testicular u/s for further characterization
   .
   # Atrial Flutter: Improved rate control since starting Verapamil though
   80 TID dosing dropping pressures.
   --Cont with Verapamil 40mg TID
   --discontinue metoprolol
   .
   # Schizoaffective disorder:
   -- get psychiatry input on management and also to assesscompetency for
   guardianship issues
   -- continue home depakote, celexa
   -- holding prolixin, seroquel for now
   .
   # Thrombocytopenia
   Slightly decreased today. DDX includes med effect, malignancy,
   infection. Not on any heparin
   - continue to trend CBC daily
   ICU Care
   Nutrition: was on tube feeds but will see how patient
s mental status
   is now that [**Last Name (Titles) **]
   Glycemic Control:
   Lines:
   PICC Line - [**2172-3-4**] 06:08 PM
   Arterial Line - [**2172-3-6**] 09:33 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: on H2 blocker
   VAP:
   Comments:
   Communication:  Guardianship: Paperwork for legal guardianship filed
   [**2172-3-6**].
   Code status: Full code
   Disposition:ICU

2172-03-09 10:29:00 Physician Attending Progress Note
Chief Complaint: s/p fall, syncope
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: left lung cancer, brain met, LA mass, pleural effusion
   24 Hour Events:
   Patient noted to have decreased strength RUE, Head CT with smae L sided
   parietal lesion but ? bleed, MRI obtained to assess for change.
   Tolerated SBT and extubated this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2172-3-8**] 08:00 AM
   Metronidazole - [**2172-3-8**] 01:30 PM
   Infusions:
   Other ICU medications:
   Propofol - [**2172-3-9**] 05:30 AM
   Furosemide (Lasix) - [**2172-3-9**] 08:30 AM
   Other medications:
   folic acid
   thiamine
   depakote sprinkles
   celexa
   fluphenazine
   benztropine
   atrvent
   albuterol
   levaquin 750
   flagyl
   chlorhexadine
   seroquel 50 q 8
   verapamil
   miralaz
   pred 60 qday
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-9**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 85 (60 - 94) bpm
   BP: 150/80(106) {85/51(64) - 167/95(123)} mmHg
   RR: 22 (14 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.7 kg (admission): 76 kg
   Height: 72 Inch
             Total In:
                                                                  1,168 mL
                                                                     73 mL
   PO:
             TF:
                                                                    225 mL
   IVF:
                                                                    503 mL
                                                                     43 mL
   Blood products:
   Total out:
                                                                  1,355 mL
                                                                  1,760 mL
   Urine:
                                                                  1,355 mL
                                                                  1,760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -187 mL
                                                                 -1,687 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 398 (357 - 428) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 85
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///35/
   Ve: 6 L/min
   Physical Examination
   General Appearance: Anxious
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.4 g/dL
   123 K/uL
   113 mg/dL
   0.3 mg/dL
   35 mEq/L
   4.1 mEq/L
   14 mg/dL
   105 mEq/L
   143 mEq/L
   36.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2172-3-6**]  02:24 AM
                             [**2172-3-7**]  12:22 AM
                             [**2172-3-7**]  12:42 AM
                             [**2172-3-7**]  06:38 AM
                             [**2172-3-7**]  11:11 AM
                             [**2172-3-7**]  12:20 PM
                             [**2172-3-8**]  04:07 AM
                             [**2172-3-8**]  04:16 AM
                             [**2172-3-8**]  07:52 AM
                             [**2172-3-9**]  03:30 AM
   WBC
   11.7
   6.9
   13.7
   7.8
   Hct
   42.9
   39.9
   37.3
   36.1
   Plt
   168
   124
   153
   123
   Cr
   0.4
   0.4
   0.4
   0.3
   TCO2
   29
   33
   32
   33
   35
   35
   Glucose
   77
   145
   162
   113
   Other labs: PT / PTT / INR:14.2/29.3/1.2, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:[**5-19**], Alk Phos / T Bili:49/0.3,
   Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %, Eos:1.9 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:102, Ca++:9.0 mg/dL, Mg++:1.9
   mg/dL, PO4:2.1 mg/dL
   Fluid analysis / Other labs: cytology and pathology pending
   Imaging: CXR [**3-8**] with improved aeration LUL
   Assessment and Plan
   53 yo M Schizoaffective d/o, bipolar,  new finding mediastinal mass and
   post-sbtructive pneumonia
   1. Hypoxemic respiratory failure: COPD, post-obstructive pneumonia,
   volume overload, LLL collapse
    - complete course levo/flagyl x 10 days
    - will aim tbb -500 to 1L today
    - chest PT
    - gentle suction as needed but no deep suction
   2. RUE weakness:
    - somewhat improved today, will f/u MRI findings
    - wil d/w neurology regarding dexamethasone for reducing edema
   3. Mediastinal mass:
    - will f/u cytology and path today. Pending pathology will ask Rad Onc
   to see
    - appreciate heme/onc and rad/onc
    - testicular ultrasound
   4. Aflutter:
    - cont verapamil
   5. Schizoaffective disorder:
    - d/c seroquel
    - hold prolixin
    - cont depakote
    - cont celexa
    - will consult psychiatry to assist with optimal regimen to balance
   sedation and treatment, as well as to assist with competency assessment
   for medical decision-making
   6. FEN: will reassess now off ventilator
   7. ACCESS: Picc, aline, will d/c aline today
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2172-3-4**] 06:08 PM
   Arterial Line - [**2172-3-6**] 09:33 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   diagnosis and wishes for therapy ( palliative, supportive. Heroic). I
   will also speak with him regarding his wishes for HCP. Psychiatric
   evaluation pending today regarding competency
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2172-03-10 07:15:00 Physician Resident Progress Note
Chief Complaint: found down
   24 Hour Events:
   extubated
   friend [**Doctor Last Name **] not able to get ahold of him
   psych says not competent
   pulled NGT, meds switched to IV
   Reports feels okay today, denies pain, says breathing is alright. He
   does not recall cancer diagnosis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2172-3-8**] 08:00 AM
   Metronidazole - [**2172-3-10**] 12:52 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2172-3-9**] 08:30 AM
   Metoprolol - [**2172-3-10**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-10**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 88 (77 - 104) bpm
   BP: 140/81(104) {129/67(90) - 151/92(114)} mmHg
   RR: 23 (16 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.7 kg (admission): 76 kg
   Height: 72 Inch
             Total In:
                                                                    165 mL
                                                                    322 mL
   PO:
             TF:
   IVF:
                                                                     45 mL
                                                                    322 mL
   Blood products:
   Total out:
                                                                  3,570 mL
                                                                    800 mL
   Urine:
                                                                  3,570 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,405 mL
                                                                   -478 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 4L
   SpO2: 95%
   ABG: ///40/
   Physical Examination
   General Appears comfortable sitting up in bed
   Neck no JVD
   CV regular S1 S2 no m/r/g
   Pulm lungs with decreased breath sounds bilaterally, worse on the left
   Abd soft nontender +bowel sounds
   Extrem warm no edema
   Neuro alert, oriented to self and hospital, follows commands. Strength
   with 4/5 handgrip, no antigravity of proximal RUE as before. Otherwise
   moving extremities, CN intact.
   GU R scrotum nodular
   Lines left A line, foley draining yellow urine
   Labs / Radiology
   160 K/uL
   12.8 g/dL
   87 mg/dL
   0.4 mg/dL
   40 mEq/L
   3.4 mEq/L
   12 mg/dL
   101 mEq/L
   145 mEq/L
   38.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2172-3-7**]  12:22 AM
                             [**2172-3-7**]  12:42 AM
                             [**2172-3-7**]  06:38 AM
                             [**2172-3-7**]  11:11 AM
                             [**2172-3-7**]  12:20 PM
                             [**2172-3-8**]  04:07 AM
                             [**2172-3-8**]  04:16 AM
                             [**2172-3-8**]  07:52 AM
                             [**2172-3-9**]  03:30 AM
                             [**2172-3-10**]  03:46 AM
   WBC
   6.9
   13.7
   7.8
   9.4
   Hct
   39.9
   37.3
   36.1
   38.1
   Plt
   124
   153
   123
   160
   Cr
   0.4
   0.4
   0.3
   0.4
   TCO2
   29
   33
   32
   33
   35
   35
   Glucose
   145
   162
   113
   87
   Other labs: PT / PTT / INR:14.2/29.3/1.2, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:[**5-19**], Alk Phos / T Bili:49/0.3,
   Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %, Eos:1.9 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:102, Ca++:9.4 mg/dL, Mg++:1.7
   mg/dL, PO4:2.8 mg/dL
   CXR [**3-9**]
   CHEST, AP: Endotracheal and nasogastric tubes have been removed. There
   is no
   pneumothorax. Left lower lobe collapse and large effusion persist. The
   left
   cardiac shadow is obscured. The right lung is clear.
   IMPRESSION: Continued left lower lobe collapse and large effusion.
   Micro
   [**3-5**] urine cx negative
   [**3-4**] pleural fluid cx negative, anaerobic prelim negative
   [**3-3**] blood cx negative
   Path:
   Prelim: Squamous cell carcinoma
   Assessment and Plan
   53 yoM w/ a h/o schizoaffective disorder presents s/p fall with atrial
   flutter with a rapid ventricular response, intracranial lesion, and
   lung mass.
   .
   # Hypoxic respiratory failure: s/p intubation for 5 days. Extubated
   successfully on [**3-9**] and on 4L NC. Patient has had some autodiuresis
   - continue abx for possible PNA (levo/flagyl day 1=[**3-5**], today day [**5-14**])
   - NC O2 to keep O2 sats >88%
   # R sided weakness:
   Suspect this is due to L parietal lesion
   -- serial neuro recs
   -- continue prednisone (would do at least 5 days for COPD but clarify
   neuro recs on need for steroid course for brain lesion)
   -- follow up final read MRI
   -- follow up neuro recs.
   .
   # L hilar mass/Brain Mass- Strong suspicion for advanced primary lung
   ca
 prelim path was squamous cell ca. Now s/p L bronchial stent.
   --Rad onc involved and plan for initiation of XRT pending
   decision-making
 would ask them about safety re: mass encroaching on
   heart
   --f/u cytology results
   --onc and palliative care are aware
 per onc, no need for chemo prior
   to radiation
   .
   # MS Change: Unclear baseline.
   -- neuro involved
   -- follow neuro exam
   -- EEG w/ slowing
   .
   # Testicular mass: Has nodularity in right scrotum
   Concern for mets given known lung CA
   - Testicular u/s for further characterization
   .
   # Atrial Flutter: Improved rate control since starting Verapamil though
   80 TID dosing dropping pressures.
   --Cont with Verapamil 40mg TID
   .
   # Schizoaffective disorder:
   -- continue home psych meds
   -- psych following, appreciate recs
   .
   # Thrombocytopenia
   Now back to normal range. DDX includes med effect, malignancy,
   infection. Not on any heparin
   - continue to trend CBC daily
   ICU Care
   Nutrition:  swallow eval
   Glycemic Control:
   Lines:
   PICC Line - [**2172-3-4**] 06:08 PM
   Arterial Line - [**2172-3-6**] 09:33 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer: h2 blocker
   Communication:  Comments:  pursuing guardianship. Friend [**Name (NI) **] is
   willing to be HCP.
   [**Name (NI) 156**] status: Full code
   Disposition: ICU for now may be stable for call out to oncology floor
   later today if beds available on [**Hospital Ward Name 203**]

2172-03-10 10:46:00 Physician Attending Progress Note
Chief Complaint:  Syncope
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: NSCL CA left lung ( brain met, myocardial invasion, pleural
   effusion)
   24 Hour Events:
   Extubated in the morning, now interactive, he has identified "[**Doctor Last Name **]" as
   the person he would like to make medical decisions for him
   discontinued NG tube, and received IV meds overnight, but now
   tolerating POs
   Pathology prelliminary squamous cell ca
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2172-3-8**] 08:00 AM
   Metronidazole - [**2172-3-10**] 08:16 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2172-3-10**] 04:30 AM
   Other medications:
   folic acid
   thiamine
   celexa
   fluphenazine
   PEG
   RISS
   prednisone 60
   levo
   flagyl
   lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-10**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 84 (79 - 104) bpm
   BP: 129/72(92) {129/67(90) - 151/92(114)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.7 kg (admission): 76 kg
   Height: 72 Inch
             Total In:
                                                                    165 mL
                                                                    505 mL
   PO:
             TF:
   IVF:
                                                                     45 mL
                                                                    505 mL
   Blood products:
   Total out:
                                                                  3,570 mL
                                                                  1,280 mL
   Urine:
                                                                  3,570 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,405 mL
                                                                   -775 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///40/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.8 g/dL
   160 K/uL
   87 mg/dL
   0.4 mg/dL
   40 mEq/L
   3.4 mEq/L
   12 mg/dL
   101 mEq/L
   145 mEq/L
   38.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2172-3-7**]  12:22 AM
                             [**2172-3-7**]  12:42 AM
                             [**2172-3-7**]  06:38 AM
                             [**2172-3-7**]  11:11 AM
                             [**2172-3-7**]  12:20 PM
                             [**2172-3-8**]  04:07 AM
                             [**2172-3-8**]  04:16 AM
                             [**2172-3-8**]  07:52 AM
                             [**2172-3-9**]  03:30 AM
                             [**2172-3-10**]  03:46 AM
   WBC
   6.9
   13.7
   7.8
   9.4
   Hct
   39.9
   37.3
   36.1
   38.1
   Plt
   124
   153
   123
   160
   Cr
   0.4
   0.4
   0.3
   0.4
   TCO2
   29
   33
   32
   33
   35
   35
   Glucose
   145
   162
   113
   87
   Other labs: PT / PTT / INR:14.2/29.3/1.2, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:[**5-19**], Alk Phos / T Bili:49/0.3,
   Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %, Eos:1.9 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:102, Ca++:9.4 mg/dL, Mg++:1.7
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   53 yo M schizoaffective d/o, bipolar here with mediastinal mass likely
   scc metastatic cancer
   1. Respiratory failure: obstruction + post-obstructive pneumonia,
   previosuly c/b additional volume overload and reactive airways disease
    - cont levo/flagyl x 10 days
    - cont chest PT
    - prednisone given for COPD flare, will d/c after 5 days unless
   neurology feels necessary for brain metastases
   2. Metastatic CA:
    - pt has been seen by rad/onc, there may be treatment options but will
   need to have guardianship/hcp identified first
   3. bipolar:
    - cont home meds
   4. FEN: patient self-dc'd ng tube but now tolerating PO meds and will
   advance diet as tolerated, will allow patient to autodiurese, watch
   electrolytes as he does this
   5. A flutter: cont verapamil
   6. scrotal mass: f/u u/s read
   7. Goals of care/HCP
    - patients friend [**Name (NI) **] was contact[**Name (NI) **] by SW today and is willing and
   able to be HCP for patient
   ICU Care
   Nutrition:  PO intake if safe
   Glycemic Control:
   Lines:
   PICC Line - [**2172-3-4**] 06:08 PM
   Arterial Line - [**2172-3-6**] 09:33 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill

2172-03-11 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2172-3-10**] 07:00 PM
 CALLED OUT
   - Plan for patient to transfer to [**Hospital Ward Name **] for radiation treatments
   by rad onc
   - No need for prednisone from neuro standpoint, [**3-11**] will be last day
   for course for COPD
   - [**Doctor Last Name **] was contact[**Name (NI) **] and is willing to be patient's HCP, agrees with
   plan but will need to complete paperwork
   - Ordered for testicular ultrasound
   - Placed on soft dysphagia diet after speech/swallow eval
   - Patient called out, but no beds overnight
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2172-3-10**] 10:02 AM
   Metronidazole - [**2172-3-11**] 12:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2172-3-10**] 08:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-11**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.8
   HR: 78 (76 - 99) bpm
   BP: 115/69(80) {98/60(67) - 132/80(92)} mmHg
   RR: 19 (14 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.7 kg (admission): 76 kg
   Height: 72 Inch
             Total In:
                                                                    840 mL
                                                                     74 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    740 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  3,170 mL
                                                                    540 mL
   Urine:
                                                                  3,170 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,330 mL
                                                                   -466 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///39/
   Physical Examination
   General Appears comfortable sitting up in bed
   Neck no JVD
   CV regular S1 S2 no m/r/g
   Pulm lungs with decreased breath sounds bilaterally worse on left, occ
   rhonchi
   Abd soft nontender +bowel sounds
   Extrem warm no edema
   Neuro alert, oriented to self and hospital, follows commands. Otherwise
   moving extremities, CN intact.
   Labs / Radiology
   161 K/uL
   12.9 g/dL
   87 mg/dL
   0.4 mg/dL
   39 mEq/L
   3.6 mEq/L
   10 mg/dL
   98 mEq/L
   142 mEq/L
   37.8 %
   9.4 K/uL
        [image002.jpg]
                             [**2172-3-7**]  12:42 AM
                             [**2172-3-7**]  06:38 AM
                             [**2172-3-7**]  11:11 AM
                             [**2172-3-7**]  12:20 PM
                             [**2172-3-8**]  04:07 AM
                             [**2172-3-8**]  04:16 AM
                             [**2172-3-8**]  07:52 AM
                             [**2172-3-9**]  03:30 AM
                             [**2172-3-10**]  03:46 AM
                             [**2172-3-11**]  02:41 AM
   WBC
   13.7
   7.8
   9.4
   9.4
   Hct
   37.3
   36.1
   38.1
   37.8
   Plt
   153
   123
   160
   161
   Cr
   0.4
   0.3
   0.4
   0.4
   TCO2
   29
   33
   32
   33
   35
   35
   Glucose
   162
   113
   87
   87
   Other labs: PT / PTT / INR:14.2/29.3/1.2, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:[**5-19**], Alk Phos / T Bili:49/0.3,
   Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %, Eos:1.9 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:102, Ca++:8.9 mg/dL, Mg++:1.9
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 OLIGURIA/ANURIA
 CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ATRIAL FLUTTER (AFLUTTER)
 HYPOTENSION (NOT SHOCK)
 PLEURAL EFFUSION, ACUTE
   53 yoM w/ a h/o schizoaffective disorder presents s/p fall with atrial
   flutter with a rapid ventricular response, intracranial lesion, and
   lung mass.
   .
   # Hypoxic respiratory failure: s/p intubation for 5 days. Extubated
   successfully on [**3-9**] and on 4L NC. Patient has had some autodiuresis
   - continue abx for possible PNA (levo/flagyl day 1=[**3-5**], today day [**5-14**])
   - NC O2 to keep O2 sats >88%
   # R sided weakness:
   Suspect this is due to L parietal lesion
   -- serial neuro recs
   -- continue prednisone (would do at least 5 days for COPD but clarify
   neuro recs on need for steroid course for brain lesion)
   -- follow up final read MRI
   -- follow up neuro recs.
   .
   # L hilar mass/Brain Mass- Strong suspicion for advanced primary lung
   ca
 prelim path was squamous cell ca. Now s/p L bronchial stent.
   --Rad onc involved and plan for initiation of XRT pending
   decision-making
 plan to transfer patient east for radiation oncology
   assessment and plan for treatment if appropriate
   --onc and palliative care are aware
 per onc, no need for chemo prior
   to radiation
   .
   # MS Change: Unclear baseline. Improving slowly
   -- neuro involved
   -- follow neuro exam
   -- EEG w/ slowing
   .
   # Testicular mass: Has nodularity in right scrotum
   Concern for mets given known lung CA
   - Testicular u/s for further characterization
   .
   # Atrial Flutter: Improved rate control since starting Verapamil though
   80 TID dosing dropping pressures.
   --Cont with Verapamil 40mg TID
   .
   # Schizoaffective disorder:
   -- continue home psych meds
   -- psych following, appreciate recs
   .
   # Thrombocytopenia
   Now back to normal range. DDX includes med effect, malignancy,
   infection. Not on any heparin
   - continue to trend CBC daily
   .
   # Dispo- to OMED once bed available
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2172-3-4**] 06:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Tx to OMED
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   I have seen and examined the patient and concur with Dr [**Last Name (STitle) 5473**]
s note
   above. He is more lucid and conveys appropriate apprehension about his
   diagnosis and prognosis. He would like heroic support in the event of
   cardio-respiratory decline and we will address this with his HCP too.
   We will avoid beta 2 agonists ( atrovent preferably) and increase
   verapamil to help with tachycardia. Auto-diuresis likely predisposing
   him to rapid HR too. He will receive XRT to chest when he is stable
   from a BP/HR standpoint. He is ready to leave the ICU today.
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**], M.D.
   Pulmonary, Critical Care and Sleep Medicine,
   Time: 35 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2172-3-11**] 01:19 PM ------

2172-03-12 11:37:00 Physician Attending Progress Note
Chief Complaint:  syncope
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo M schizoaffective d/o who initially presented with fall.  Workup
   revealed hilar mass extending into pulmonary veins and right atrium
   with brain metastases, pathology with scc.  Hospital course complicated
   by SVT and NSVT, respiratory failure [**1-7**] pulmonary mass now extubated,
   and guardianship/HCP issues
   24 Hour Events:
   patient with both NSVT and nonsustained atrial tachycardia
   verapamil increased and amiodarone gtt started
   testicular ultrasound with no significant masses
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2172-3-11**] 08:29 AM
   Metronidazole - [**2172-3-12**] 12:06 AM
   Infusions:
   Other ICU medications:
   Amiodarone - [**2172-3-11**] 06:00 PM
   Famotidine (Pepcid) - [**2172-3-11**] 08:00 PM
   Verapamil - [**2172-3-12**] 04:44 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-12**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 79 (79 - 132) bpm
   BP: 144/87(101) {92/52(65) - 169/89(104)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.7 kg (admission): 76 kg
   Height: 72 Inch
             Total In:
                                                                  1,727 mL
                                                                    905 mL
   PO:
                                                                  1,320 mL
                                                                    680 mL
   TF:
   IVF:
                                                                    407 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  2,110 mL
                                                                  1,410 mL
   Urine:
                                                                  2,110 mL
                                                                  1,410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -383 mL
                                                                   -505 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///37/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: , Wheezes : , No(t)
   Diminished: )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.9 g/dL
   162 K/uL
   104 mg/dL
   0.4 mg/dL
   37 mEq/L
   4.3 mEq/L
   9 mg/dL
   96 mEq/L
   137 mEq/L
   41.5 %
   13.7 K/uL
        [image002.jpg]
                             [**2172-3-7**]  06:38 AM
                             [**2172-3-7**]  11:11 AM
                             [**2172-3-7**]  12:20 PM
                             [**2172-3-8**]  04:07 AM
                             [**2172-3-8**]  04:16 AM
                             [**2172-3-8**]  07:52 AM
                             [**2172-3-9**]  03:30 AM
                             [**2172-3-10**]  03:46 AM
                             [**2172-3-11**]  02:41 AM
                             [**2172-3-12**]  02:05 AM
   WBC
   13.7
   7.8
   9.4
   9.4
   13.7
   Hct
   37.3
   36.1
   38.1
   37.8
   41.5
   Plt
   153
   123
   160
   161
   162
   Cr
   0.4
   0.3
   0.4
   0.4
   0.4
   TCO2
   33
   32
   33
   35
   35
   Glucose
   162
   113
   87
   87
   104
   Other labs: PT / PTT / INR:14.2/29.3/1.2, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:[**5-19**], Alk Phos / T Bili:49/0.3,
   Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %, Eos:1.9 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:102, Ca++:8.9 mg/dL, Mg++:2.1
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   53 yo M schizoaffective disorder here with new diagnosis metastatic
   squamous cell carcinoma, course complicated by arryhtmia, respiratory
   failure
   1. Respiratory failure: continues to have 4L O2 requirement with
   productive cough, likely [**1-7**] mass and post-obstructive pneumonia
    - cont standing and prn atrovent
    - completed steriods
    - complete course levaquin and flagyl for possible post-obstructive
   pna, day [**9-13**].
   2. Squamous cell carcinoma:
    - palliative xrt to lung mass
    - will touch base with palliative care regarding further
   decision-making
   3. Aflutter/nsvt: [**1-7**] atrial mass, less responsive to verapamil
    - cont verapamil and amiodarone for now
    - will need to clarify goals of care with patient and health care
   proxy: chest compressions would likely be of greater risk than benefit,
   but at this moment attempted dccv in setting of sustained VT would not
   be contra-indicated, although this would not fix the underlying source
   of arrythmia which is most likely the mass in his right atrium
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2172-3-4**] 06:08 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :To medical floor once amiodarone load completed
   Total time spent: 35 minutes
   Patient is critically ill

2172-03-13 10:38:00 Physician Attending Progress Note
Chief Complaint:  syncope
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo M schizoaffective disorder who presents after a fall and is found
   to have metastatic scc involving his heart, pulmonary veins,
   mediastinum
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2172-3-12**] 08:45 AM
   Levofloxacin - [**2172-3-12**] 11:00 AM
   Infusions:
   Other ICU medications:
   Verapamil - [**2172-3-13**] 05:00 AM
   Famotidine (Pepcid) - [**2172-3-13**] 09:00 AM
   Other medications:
   folic acid
   thiamine
   celexa
   fluphenazine
   riss
   famotidine
   divalproax
   verapamil 120
   amio 400 [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-13**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36
C (96.8
   HR: 85 (70 - 150) bpm
   BP: 115/84(92) {92/56(65) - 143/102(112)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.7 kg (admission): 76 kg
   Height: 72 Inch
             Total In:
                                                                  2,441 mL
                                                                  1,004 mL
   PO:
                                                                  1,360 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  1,081 mL
                                                                    504 mL
   Blood products:
   Total out:
                                                                  1,840 mL
                                                                  1,030 mL
   Urine:
                                                                  1,840 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    601 mL
                                                                    -27 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///34/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   CHEST: diminished breath sounds on L, improved rhonchi on R
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: responds to simple commands, 2/5 strength RUE, not able to
   express why he is currently in the hospital.
   Labs / Radiology
   12.6 g/dL
   123 K/uL
   92 mg/dL
   0.3 mg/dL
   34 mEq/L
   4.1 mEq/L
   7 mg/dL
   96 mEq/L
   134 mEq/L
   37.3 %
   10.8 K/uL
        [image002.jpg]
                             [**2172-3-7**]  11:11 AM
                             [**2172-3-7**]  12:20 PM
                             [**2172-3-8**]  04:07 AM
                             [**2172-3-8**]  04:16 AM
                             [**2172-3-8**]  07:52 AM
                             [**2172-3-9**]  03:30 AM
                             [**2172-3-10**]  03:46 AM
                             [**2172-3-11**]  02:41 AM
                             [**2172-3-12**]  02:05 AM
                             [**2172-3-13**]  04:10 AM
   WBC
   13.7
   7.8
   9.4
   9.4
   13.7
   10.8
   Hct
   37.3
   36.1
   38.1
   37.8
   41.5
   37.3
   Plt
   153
   123
   160
   161
   162
   123
   Cr
   0.4
   0.3
   0.4
   0.4
   0.4
   0.3
   TCO2
   32
   33
   35
   35
   Glucose
   162
   113
   87
   87
   104
   92
   Other labs: PT / PTT / INR:13.5/24.5/1.2, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:[**7-20**], Alk Phos / T Bili:36/0.3,
   Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %, Eos:1.9 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:184 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   53 yo M schizoaffective, szr d/o here with new diagnosis metastatic
   squamous cell carcinoma
   1. metastatic CA:
    - seen by radiation oncology, possibly to start radiation therapy once
   HCP signs off
   2. SVT: currently stable
    - cont verapamil and amiodarone
   3. ? CVA: neuroradiology review of head CT now consistent with emobolic
   phenomonenon
    - asa, statin
    - PT/OT
   4. Respiratory failure: improving, currently on room air, likely
   resolved post-obstructive pna on top of pulmonary mass
    - off abx
    - cont off steroids
   5. Psych disorder: overall, he appears more depressed, anhedonia, not
   eating
    - f/u with psychiatry re limiting sedating medications
    - sw to see
    - HCP to see today
   6. FEN: refusing solid foods, cont ensure/supplements
    - cont regular diet
    - encouraging po intake
    - may require tpn if continued not eating
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2172-3-4**] 06:08 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :[**Hospital 704**] transfer to med floor/ oncology floor on East while
   XRT starts/ considered although with more severe depression, doubt he
   will be a candidate for this until mood stabilizes
   Total time spent: 35 minutes

2172-03-14 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2172-3-13**] 01:15 PM
 ULTRASOUND - At [**2172-3-13**] 02:00 PM
 PICC LINE - STOP [**2172-3-13**] 04:00 PM
 EKG - At [**2172-3-13**] 06:00 PM
   -Patient with increased RUE swelling, US performed, showing R basilic
   clot around R PICC so PICC line pulled, patient with L 20g PIV.
   - per neuro-onc prelim recs, that R parietal lesion likely embolic CVA
   so added ASA, lipid panel, PT/OT
   - met with [**Doctor Last Name **], now official HCP, and plan to proceed with [**Name (NI) 6578**]
   - patient with tachycardia, increased ectopy overnight, given 5mg
   verapamil x 1
   - plan to callout to [**Location 12514**] service
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2172-3-12**] 08:45 AM
   Levofloxacin - [**2172-3-12**] 11:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2172-3-13**] 09:00 AM
   Verapamil - [**2172-3-13**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-14**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.8
C (96.5
   HR: 96 (66 - 109) bpm
   BP: 136/72(89) {101/49(68) - 137/84(93)} mmHg
   RR: 26 (18 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.7 kg (admission): 76 kg
   Height: 72 Inch
             Total In:
                                                                  1,530 mL
                                                                    378 mL
   PO:
                                                                    990 mL
                                                                    280 mL
   TF:
   IVF:
                                                                    540 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                  1,255 mL
   Urine:
                                                                  2,120 mL
                                                                  1,255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -590 mL
                                                                   -877 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   133 K/uL
   13.8 g/dL
   84 mg/dL
   0.4 mg/dL
   28 mEq/L
   4.8 mEq/L
   6 mg/dL
   95 mEq/L
   131 mEq/L
   40.6 %
   10.5 K/uL
        [image002.jpg]
                             [**2172-3-7**]  12:20 PM
                             [**2172-3-8**]  04:07 AM
                             [**2172-3-8**]  04:16 AM
                             [**2172-3-8**]  07:52 AM
                             [**2172-3-9**]  03:30 AM
                             [**2172-3-10**]  03:46 AM
                             [**2172-3-11**]  02:41 AM
                             [**2172-3-12**]  02:05 AM
                             [**2172-3-13**]  04:10 AM
                             [**2172-3-14**]  04:50 AM
   WBC
   13.7
   7.8
   9.4
   9.4
   13.7
   10.8
   10.5
   Hct
   37.3
   36.1
   38.1
   37.8
   41.5
   37.3
   40.6
   Plt
   153
   123
   160
   161
   162
   123
   133
   Cr
   0.4
   0.3
   0.4
   0.4
   0.4
   0.3
   0.4
   TCO2
   33
   35
   35
   Glucose
   162
   113
   87
   87
   104
   92
   84
   Other labs: PT / PTT / INR:12.7/24.3/1.1, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:[**8-24**], Alk Phos / T Bili:37/0.5,
   Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %, Eos:1.9 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:184 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 OLIGURIA/ANURIA
 CANCER (MALIGNANT NEOPLASM), OTHER
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ATRIAL FLUTTER (AFLUTTER)
 HYPOTENSION (NOT SHOCK)
 PLEURAL EFFUSION, ACUTE
   53 yoM w/ a h/o schizoaffective disorder admitted to ICU s/p fall with
   atrial flutter with a rapid ventricular response, intracranial lesion
   likely CVA, and lung mass who  has new dx of squamous cell lung cancer
   with extension into left atrium with improved HR control on amiodarone.
   .
   # Atrial & Ventricular Ectopy :  improved after IV amio load, now on PO
   amiodarone. Also on higher verapamil dose.
   --continue close BP monitoring  on higher  verapamil dose
   -- continue PO amiodarone (s/p IV load)
   # L hilar mass: Given recent imaging and lung sample biopsy this is
   likely an advanced primary squamous cell lung cancer. He is now
   recovering well after recent left bronchial stent.  Also has left
   atrial mass which is a probable extension of his underlying lung
   cancer.
   --Rad onc involved and plan for initiation of [**Last Name 6578**] pending
   decision-making ( may be transferring patient east for radiation
   oncology assessment and treatment)
   --Oncology following
 per onc, no need for chemo prior to radiation
   --f/up palliative care recs, appreciate input
   # Intracranial lesion: Per neuro onc, most consistent with embolic CVA
   in L parietal region. Consistent with R UE/LE weakness.
   - f/u final neuroonc recs and neuro recs
   - start ASA, check lipids
   - UE ultrasound for evaluation of increased swelling in right upper
   extremity
   # Schizoaffective disorder/Depression: Depression worse today
   -- psych following, appreciate recs
 talk to psych regarding any
   change in medications to help depression. Consider switching to
   antidepressant with appetite stimulate properties
   # Hypoxic respiratory failure: s/p intubation for 5 days. Extubated
   successfully on [**3-9**] and on 4L NC. Patient stopped on steroids [**3-11**]. Off
   antibiotics since [**3-12**].
   - NC O2 to keep O2 sats >88%
   --Continue atrovent nebs
   .
   # MS Change: Unclear baseline. Improving slowly
   -- neuro involved
   -- follow neuro exam
   -- EEG w/ slowing
   .
   # Testicular mass: Has nodularity in right scrotum which was not
   consistent with any metastatic mass
   .
   # Thrombocytopenia
   Now back to normal range. DDX includes med effect, bone marrow
   suppression with known  malignancy vs. infection. Not on any heparin at
   this time
   - continue to trend CBC daily
   ICU Care
   Nutrition: Soft solids, ensure TID. Encourage PO intake
   Glycemic Control:  HISS
   Lines:
   20 Gauge - [**2172-3-13**] 04:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: [**Doctor Last Name **] - who will be patient's
   decision-maker/HCP:
   ([**Telephone/Fax (1) 12498**]
   ([**Telephone/Fax (1) 12499**]
   Code status: Full code
   Disposition: Called out to OMED/[**Hospital Ward Name **] bed for [**Hospital Ward Name 6578**] treatment

2172-03-14 11:05:00 Physician Attending Progress Note
Chief Complaint: altered mental status, hypexoemic respiratory
   insuffciency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 y/o man with schizoaffective disorder transferred her with likely
   ischemic stroke, found to have Stage IV NSCLC
   24 Hour Events:
   No events. Called out yesterday, awaiting bed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2172-3-12**] 08:45 AM
   Levofloxacin - [**2172-3-12**] 11:00 AM
   Infusions:
   Other ICU medications:
   Verapamil - [**2172-3-13**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: no complaints
   Pain: [**12-7**] Minimal
   Pain location: right upper extremity
   Flowsheet Data as of  [**2172-3-14**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 88 (66 - 109) bpm
   BP: 120/69(82) {102/49(68) - 137/79(93)} mmHg
   RR: 23 (18 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.7 kg (admission): 76 kg
   Height: 72 Inch
             Total In:
                                                                  1,530 mL
                                                                    738 mL
   PO:
                                                                    990 mL
                                                                    580 mL
   TF:
   IVF:
                                                                    540 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                  1,785 mL
   Urine:
                                                                  2,120 mL
                                                                  1,785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -590 mL
                                                                 -1,047 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.8 g/dL
   133 K/uL
   84 mg/dL
   0.4 mg/dL
   28 mEq/L
   4.8 mEq/L
   6 mg/dL
   95 mEq/L
   131 mEq/L
   40.6 %
   10.5 K/uL
        [image002.jpg]
                             [**2172-3-7**]  12:20 PM
                             [**2172-3-8**]  04:07 AM
                             [**2172-3-8**]  04:16 AM
                             [**2172-3-8**]  07:52 AM
                             [**2172-3-9**]  03:30 AM
                             [**2172-3-10**]  03:46 AM
                             [**2172-3-11**]  02:41 AM
                             [**2172-3-12**]  02:05 AM
                             [**2172-3-13**]  04:10 AM
                             [**2172-3-14**]  04:50 AM
   WBC
   13.7
   7.8
   9.4
   9.4
   13.7
   10.8
   10.5
   Hct
   37.3
   36.1
   38.1
   37.8
   41.5
   37.3
   40.6
   Plt
   153
   123
   160
   161
   162
   123
   133
   Cr
   0.4
   0.3
   0.4
   0.4
   0.4
   0.3
   0.4
   TCO2
   33
   35
   35
   Glucose
   162
   113
   87
   87
   104
   92
   84
   Other labs: PT / PTT / INR:12.7/24.3/1.1, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:[**8-24**], Alk Phos / T Bili:37/0.5,
   Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %, Eos:1.9 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:184 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Imaging: TTE - Left atrial/mass
   Assessment and Plan
   Agree with assesment and plan as outline in resident note. Briefly, 57
   y/o man with schizoaffective disorder, Stage IV NSCLC and possible
   ischemic stroke.
   LUNG CA
 Stage IV.  Evaluated by medical and radiation oncology
   awaiting XRT.
   DVT -- RUE clot (in assoc with line) may be possible source of embolic
   stroke (paradoxical embli)  Line discontinued.
   ATRIAL/VALVULAR MASS
 may be clot or tumor.  Possible source of embili
   to CNS.  If acceptable to Neurology Service, will start heparin gtt .
   L ATALECTASIS -- Improved aeration of left side post stent.
   CVA
 s/p embolic stroke, possible source from left heart.  No new
   events.  Monitor exam.
   SCHIZOAFFECTIVE DISORDER -- Home psych regimen.
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2172-3-13**] 04:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition : Ready for transfer to floor, specifically to [**Hospital Ward Name **]
   bed (anticipating XRT)
   Total time spent: 35 minutes

2172-03-15 07:25:00 Physician Resident Progress Note
Chief Complaint: 53yo M with schizoaffective disorder, ETOH-ism,
   a-flutter, recent fall and AMS and found to have extensive squamous
   cell lung cancer and recent embolic CVA on additional workup/imaging
   24 Hour Events:
   -extra verapamil given overnight for SVT
   -on IV heparin without bolus for stroke, clot per d/w neuro onc
   -desaturations overnight to 80s range and coughing, suspected
   aspiration event vs. partial/full stent blockage--> IP called this a.m.
   -CXR reveals LUL partial collapse
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2172-3-12**] 08:45 AM
   Levofloxacin - [**2172-3-12**] 11:00 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Heparin Sodium - [**2172-3-14**] 08:00 PM
   Famotidine (Pepcid) - [**2172-3-14**] 08:23 PM
   Verapamil - [**2172-3-14**] 08:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-15**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.5
C (97.7
   HR: 96 (69 - 128) bpm
   BP: 117/58(70) {103/40(58) - 150/96(102)} mmHg
   RR: 22 (15 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.7 kg (admission): 76 kg
   Height: 72 Inch
             Total In:
                                                                  1,422 mL
                                                                    198 mL
   PO:
                                                                  1,000 mL
             TF:
   IVF:
                                                                    422 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                  2,910 mL
                                                                  1,050 mL
   Urine:
                                                                  2,910 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,488 mL
                                                                   -852 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///33/
   Physical Examination
   General: alert and oriented x 1 , NAD, on nasal cannula, occasional
   moaning
   HEENT: PERRL, EOMI, OP clear
   LUNGS: crackles over bases bilaterally, wheeze over LUL
   CVS: S1/S2 regular, no mumurs/rubs
   ABD: nontender, soft, normoactive bowel sounds
   EXT: 2+ pedal pulses, warm
   Labs / Radiology
   166 K/uL
   13.5 g/dL
   94 mg/dL
   0.4 mg/dL
   33 mEq/L
   3.9 mEq/L
   6 mg/dL
   94 mEq/L
   133 mEq/L
   39.1 %
   11.2 K/uL
        [image002.jpg]
                             [**2172-3-8**]  04:16 AM
                             [**2172-3-8**]  07:52 AM
                             [**2172-3-9**]  03:30 AM
                             [**2172-3-10**]  03:46 AM
                             [**2172-3-11**]  02:41 AM
                             [**2172-3-12**]  02:05 AM
                             [**2172-3-13**]  04:10 AM
                             [**2172-3-14**]  04:50 AM
                             [**2172-3-14**]  09:17 PM
                             [**2172-3-15**]  02:56 AM
   WBC
   7.8
   9.4
   9.4
   13.7
   10.8
   10.5
   11.2
   Hct
   36.1
   38.1
   37.8
   41.5
   37.3
   40.6
   39.1
   Plt
   123
   160
   161
   162
   123
   133
   166
   Cr
   0.3
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   TCO2
   35
   35
   Glucose
   113
   87
   87
   104
   92
   84
   132
   94
   Other labs: PT / PTT / INR:13.7/125.4/1.2, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:[**8-24**], Alk Phos / T Bili:37/0.5,
   Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %, Eos:1.9 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:184 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan:
   53 yoM w/ a h/o schizoaffective disorder admitted to ICU s/p fall with
   atrial flutter with a rapid ventricular response, intracranial lesion
   likely CVA, and lung mass who  has new dx of squamous cell lung cancer
   with extension into left atrium with improved HR control on amiodarone.
   .
   # RUE clot: Patient in hypercoagulable state, also with LA mass,
   embolic stroke
   - talk to neuro/neuro-onc regarding if any contraindication to
   anticoagulation. If none, start heparin
   # Atrial & Ventricular Ectopy : Likely 2/2 L atrial mass. Will likely
   have continue ectopy but hemodynamically stable. improved after IV amio
   load, now on PO amiodarone. Also on higher verapamil dose.
   --continue close BP monitoring  on higher  verapamil dose
   -- continue PO amiodarone (s/p IV load)
   -- patient will have occasional ectopy, responds to IV verapamil 5mg
   # L hilar mass: Given recent imaging and lung sample biopsy this is
   likely an advanced primary squamous cell lung cancer. He is now
   recovering well after recent left bronchial stent.  Also has left
   atrial mass which is a probable extension of his underlying lung
   cancer.
   --Rad onc involved and plan for initiation of XRT on [**Hospital Ward Name **]
   --Oncology following
 per onc, no need for chemo prior to radiation
   --f/up palliative care recs, appreciate input
   # Intracranial lesion: Per neuro onc, most consistent with embolic CVA
   in L parietal region. Consistent with R UE/LE weakness.
   - f/u final neuroonc recs and neuro recs
   - start ASA, check lipids
   - PT/OT for rehab of R sided weakness
   # Schizoaffective disorder/Depression: Depression worse today
   -- psych following, appreciate recs
 talk to psych regarding any
   change in medications to help depression. Consider switching to
   antidepressant with appetite stimulate properties
   # Hypoxic respiratory failure: s/p intubation for 5 days. Extubated
   successfully on [**3-9**] and on 4L NC. Patient stopped on steroids [**3-11**]. Off
   antibiotics since [**3-12**]. Weaned to RA -2L for comfort
   - NC O2 to keep O2 sats >88%
   --Continue atrovent nebs
   .
   # MS Change: Unclear baseline. Improving slowly
   -- neuro involved
   -- follow neuro exam
   -- EEG w/ slowing
   .
   # Testicular mass: Has nodularity in right scrotum which was not
   consistent with any metastatic mass
   .
   # Thrombocytopenia
   Now back to normal range. DDX includes med effect, bone marrow
   suppression with known  malignancy vs. infection. Not on any heparin at
   this time
   - continue to trend CBC daily
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-3-13**] 04:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-03-15 11:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory insuffciency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    53  year old man with PMH as outline in previous notes. Here with
   respiratory insuffciency [**1-7**] likely stage IV NSLC. Overnight some new
   LUL collapse - IP aware. Heparin started yesterday for RUE clot as well
   as embolic CV [**1-7**] atrial mass/clot.
   24 Hour Events:
   -cont LUL collapse
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Heparin Sodium - [**2172-3-14**] 08:00 PM
   Famotidine (Pepcid) - [**2172-3-14**] 08:23 PM
   Verapamil - [**2172-3-14**] 08:58 PM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: no chest pain
   Respiratory: Cough, Dyspnea
   Gastrointestinal: no abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2172-3-15**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.1
   HR: 99 (68 - 128) bpm
   BP: 123/49(69) {103/40(58) - 150/96(102)} mmHg
   RR: 18 (15 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.7 kg (admission): 76 kg
   Height: 72 Inch
             Total In:
                                                                  1,422 mL
                                                                    277 mL
   PO:
                                                                  1,000 mL
             TF:
   IVF:
                                                                    422 mL
                                                                    277 mL
   Blood products:
   Total out:
                                                                  2,910 mL
                                                                  1,590 mL
   Urine:
                                                                  2,910 mL
                                                                  1,590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,488 mL
                                                                 -1,313 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///33/
   Physical Examination
   Skin:  warm
   Lungs- [**Month (only) **]/absent BS LUL, [**Month (only) 453**] througout remainder of Lt, good aeration
   on Rt
   Heart- RRR
   Abd- soft NTND
   Ext- no embolic stigmata
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.5 g/dL
   166 K/uL
   94 mg/dL
   0.4 mg/dL
   33 mEq/L
   3.9 mEq/L
   6 mg/dL
   94 mEq/L
   133 mEq/L
   39.1 %
   11.2 K/uL
        [image002.jpg]
                             [**2172-3-8**]  04:16 AM
                             [**2172-3-8**]  07:52 AM
                             [**2172-3-9**]  03:30 AM
                             [**2172-3-10**]  03:46 AM
                             [**2172-3-11**]  02:41 AM
                             [**2172-3-12**]  02:05 AM
                             [**2172-3-13**]  04:10 AM
                             [**2172-3-14**]  04:50 AM
                             [**2172-3-14**]  09:17 PM
                             [**2172-3-15**]  02:56 AM
   WBC
   7.8
   9.4
   9.4
   13.7
   10.8
   10.5
   11.2
   Hct
   36.1
   38.1
   37.8
   41.5
   37.3
   40.6
   39.1
   Plt
   123
   160
   161
   162
   123
   133
   166
   Cr
   0.3
   0.4
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   TCO2
   35
   35
   Glucose
   113
   87
   87
   104
   92
   84
   132
   94
   Other labs: PT / PTT / INR:13.7/125.4/1.2, CK / CKMB /
   Troponin-T:31//<0.01, ALT / AST:[**8-24**], Alk Phos / T Bili:37/0.5,
   Differential-Neuts:63.5 %, Lymph:23.4 %, Mono:10.9 %, Eos:1.9 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:184 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   53M with recent placement of left mainstem stent for collapse Lt lung
   due to Stage IV NSCLC.
   Left lung collapase
   -s/p placement Lt mainstem stent
   -new LUL collapse yesterday  persisting to today.  Dense on radiograph
   but sounds to be moving air on exam and tolerating well with good sats
   and low FiO2 requirement.
   -IP plans bronch in am if he doesn't reexapnd with conservative
   measures.
   LUNG CA
 Stage IV.
   - Evaluated by medical and radiation oncology
 awaiting XRT.
   DVT
   - RUE clot (in assoc with line) may be possible source of embolic
   stroke (paradoxical embli)
   -Line discontinued.
   ATRIAL/VALVULAR MASS
 clot vs. tumor
   -  Possible source of embili to CNS
   - heparin gtt
   CVA
 s/p embolic stroke, possible source from left heart
   - No new events
   - follow exam.
   SCHIZOAFFECTIVE DISORDER =
   - Home psych regimen.
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2172-3-13**] 04:07 PM
   18 Gauge - [**2172-3-15**] 08:36 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill